US06034067
To a solution of Boc-Glu(OtBu)-OH (15 g) in dichloromethane (150 ml) was added N,O-dimethyl-hydroxylamine hydrochloride (5.3 g) and [2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate] (15.87 g) and the pH was adjusted to pH 8-8.5 by adding triethylamine. The reaction mixture was stirred for 16 h at room temperature. The mixture was washed successively with cold 0.3M hydrochloric acid solution, water, 5% aqueous sodium hydrogen carbonate solution and water. The organic layer was dried over sodium sulfate, filtered and evaporated. The residue was purified by chromatography on silica (eluent: dichloromethane/methanol=98/2 v/v %) to yield Boc-Glu(OtBu)-NMeOMe (17.5 g).

reactant | Boc-Glu(OtBu)-OH | 15 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OC(C)(C)C | C14H25NO6
reactant | N,O-dimethyl-hydroxylamine hydrochloride | 5.3 g | Cl.CNOC
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Boc-Glu(OtBu)-NMeOMe | 17.5 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N(C)OC)C(=O)OC(C)(C)C | C16H30N2O6
